US04001336
55 g (0.3 mole) of 4,8-dimethyl-deca-1,6-dien-3-ol and 46 g (0.4 mole) of α-formyl-propionic acid methyl ester are heated at from 140° to 200° C, whilst stirring, the methanol thereby eliminated is distilled off through a column, and the carbon dioxide eliminated is recorded by a gas flow meter. When the reaction has ceased, the contents of the flask are fractionated. 51 g of 2,6,10-trimethyl-dodeca-4,8-dien-1-al (yield, 77% of theory) are obtained. B.p. = 72° - 75° C at 0.01 mm Hg; nD25 = 1.4566. Odor: sweet, fruity, orange scent.

reactant | 4,8-dimethyl-deca-1,6-dien-3-ol | 0.3 mole, 55 g | CC(C(C=C)O)CC=CC(CC)C | C12H22O
reactant | α-formyl-propionic acid methyl ester | 0.4 mole, 46 g | COC(C(C)C=O)=O | C5H8O3
product | 2,6,10-trimethyl-dodeca-4,8-dien-1-al | 51 g, 77% | CC(C=O)CC=CC(CC=CC(CC)C)C | C15H26O
